US05151497
cis 2-Methyl-4-oxocyclopentanecarboxylic acid
In acetonitrile (5 ml) were dissolved methyl cis-2-methyl-4-oxocyclopentanecarboxylate [K. Kojima et al., Chem. Pharm. Bull., 33, 2750 (1985)] (827 mg) and sodium iodide (3.175 g), and trimethylchlorosilane (2.69 ml) was added to the solution at room temperature. The mixture was refluxed under nitrogen atmosphere for one day. After the temperature was cooled to room temperature, water was added and the mixture was extracted with ether, followed by washing with an aqueous solution of sodium thiosulfate. The water layer was further extracted with ether. The organic layers were combined, dried over magnesium sulfate and concentrated to dryness. The residue was subjected to silica gel column chromatography with ethyl acetate:chloroform (1:1), and the eluted fractions were combined and concentrated to dryness to yield the title compound (243 mg).

reactant | methyl cis-2-methyl-4-oxocyclopentanecarboxylate | 827 mg | C[C@@H]1[C@@H](CC(C1)=O)C(=O)OC | C8H12O3
reactant | sodium iodide | 3.175 g | [I-].[Na+]
reactant | trimethylchlorosilane | 2.69 ml | C[Si](Cl)(C)C | C3H9ClSi
reactant | water | O | H2O
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | cis 2-Methyl-4-oxocyclopentanecarboxylic acid | 243 mg | C[C@@H]1[C@@H](CC(C1)=O)C(=O)O | C7H10O3
